US07659294B2
Step A: (3R)-3-(4-Bromophenyl)cyclopentanone
To a mixture of 7.2 g (35.8 mmol) of 4-bromophenylboronic acid, 186 mg (0.72 mmol) of acetylacetonatobis(ethylene)rhodium (I) and 446 mg (0.71 mmol) of (R)-2,2′-bis(diphenylphosphino)-1,1′binaphthyl (BINAP) in 60 mL of dioxane and 6 mL of H2O under nitrogen was added 1.0 mL (11.9 mmol) of 2-cyclopenten-1-one. After refluxing for 5.5 h, the reaction was concentrated. The residue was partitioned between 300 mL of EtOAc and 300 mL of 1 N NaHCO3. After separating phases, the organic layer was washed with 300 mL of brine, dried over Na2SO4 and concentrated. The residue was purified on a 40M Biotage column using 9:1 v/v hexane/EtOAc as the eluant to afford 1.90 g of the title compound as a white solid: 1H NMR δ 1.97 (m, 1H), 2.29-2.37 (m, 2H), 2.43-2.52 (m, 2H), 2.69 (m, 1H), 3.40 (m, 1H), 7.16 (d, J=8.5, 2H), 7.49 (d, J=8.5, 2H).

reactant | 4-bromophenylboronic acid | 35.8 mmol, 7.2 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | 2-cyclopenten-1-one | 11.9 mmol, 1.0 mL | C1(C=CCC1)=O | C5H6O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 6 mL | O | H2O
catalyst | acetylacetonatobis(ethylene)rhodium (I) | 0.72 mmol, 186 mg | C/C(=C/C(=O)C)/O.C=C.C=C.[Rh]
catalyst | (R)-2,2′-bis(diphenylphosphino)-1,1′binaphthyl | 0.71 mmol, 446 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | (3R)-3-(4-Bromophenyl)cyclopentanone | 1.90 g | BrC1=CC=C(C=C1)[C@H]1CC(CC1)=O | C11H11BrO
